2189-04-23 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2189-4-22**] 04:33 PM
 STOOL CULTURE - At [**2189-4-22**] 08:03 PM
   -          Intermittently hypotensive, given 3L NS with improvement in
   MAP and tacchycardia, but then hypotensive thereafter.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-4-23**] 01:56 AM
   Cefipime - [**2189-4-23**] 04:00 AM
   Metronidazole - [**2189-4-23**] 04:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-23**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 95 (94 - 117) bpm
   BP: 76/48(55) {76/48(55) - 114/78(86)} mmHg
   RR: 0 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,286 mL
                                                                  3,122 mL
   PO:
             TF:
   IVF:
                                                                    726 mL
                                                                  3,092 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    235 mL
   Urine:
                                                                    535 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,751 mL
                                                                  2,887 mL
   Respiratory support
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   +ecchymoses
   Extremities: Right: Trace, Left: Trace, ecchymotic b/l
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, slow with
   responses, and notable for
   Labs / Radiology
   254 K/uL
   8.9 g/dL
   86 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.1 mEq/L
   21 mg/dL
   116 mEq/L
   142 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
   WBC
   8.5
   Hct
   27.3
   Plt
   254
   Cr
   0.3
   Glucose
   86
   Other labs: PT / PTT / INR:29.9/32.6/3.1, ALT / AST:[**10-1**], Alk Phos / T
   Bili:88/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:1.9 g/dL, LDH:258 IU/L, Ca++:5.6 mg/dL, Mg++:1.2
   mg/dL, PO4:2.8 mg/dL
   Culture Data: NGTD, C. Diff Negative
   CXR:
   IMPRESSION:
   1. No definite acute airspace process; however, the diffusely prominent
   interstitial markings has a wide differential diagnosis, including
   acute or
   chronic pneumonitis (including treatment-related), and lymphangitic
   carcinomatosis.
   2. Osteosclerotic skeletal metastases, consistent with metastatic
   breast CA.
   Assessment and Plan
   54 yof w/ h/o breast cancer a/w lethargy and hypotention.
   .
   # Hypotension: Ideally would have CVP from central line to assist with
   volume status.  Currently responds to IVFs suggesting continue volume
   depletion, but then continues to drop her pressures shortly
   thereafter.  Likely some component of extrasavasation given low
   albumin.  Cause for hypotension is unclear.  [**Name2 (NI) 60**] be urosepsis vs.
   adrenal insufficiency with component of dehydration from diarrhea.
   - follow UOP with goal of 30-50cc/hr, MAP > 65mmHg.
   - Continue vancomycin/cefepime/flagyl given relative neutropenia for 24
   hours and reassess in AM.
   - Pan Culture, stool C. Diff if negative x3 consider d/c flagyl.
   - [**Last Name (un) **] Stim, and AM cortisol
   - Transfuse with PRBC
s for hypotension as may hold volume more
   effectively.
   .
   #Lethargy: Likely multifactorial [**1-17**] meds, hypotension, infection.
   Mental status improving with hydration.  Avoid sedating meds.
   - Much improved this AM.
   - Consider LP but has been afebrile and have source in urine.
   .
   #Acid Base: Hyperchloremic non-anion gap metabolic acidosis likely [**1-17**]
   IV fluids.  Changed to LR this AM.  Transfuse PRBC
s today PRN.
   .
   #Breast Cancer: [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 2562**] (sp?) is primary oncologist.  Further care
   as per Oncology.
   - Continue phenobarb and keppra for seizures.
   .
   #RA: Hold plaquenil and celebrex for now until acute phase resolved.
   .
   #Coumadin for prior CVA: Hold for now.
   - Continue ASA 81mg.
   .
   #Diarrhea: Stool C. Diff, Stool Culture, IVFluids, start empiric
   treatment for C. Diff
   - Hold bowel regimen
   - IV fluids.
   #FEN: Regular diet, nutrition consult given low albumin, replete
   Calcium, Magnesium, Phos
   #Access: PIV, Port
   #FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient not neutropenic, but agree with continuation of
   vanc/cefepime/flagyl at this time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2450**], MD
   on:[**2189-4-23**] 11:24 ------

2189-04-23 09:30:00 Physician Attending Progress Note
Chief Complaint:  hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2189-4-22**] 04:33 PM
 STOOL CULTURE - At [**2189-4-22**] 08:03 PM
   Overnight required repeated fluid bolkus for low MAPs - was still fluid
   responsive
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-4-23**] 01:56 AM
   Cefipime - [**2189-4-23**] 04:00 AM
   Metronidazole - [**2189-4-23**] 04:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-23**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 98 (94 - 117) bpm
   BP: 107/50(64) {76/48(55) - 114/78(86)} mmHg
   RR: 19 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,286 mL
                                                                  4,374 mL
   PO:
             TF:
   IVF:
                                                                    726 mL
                                                                  4,344 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    295 mL
   Urine:
                                                                    535 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,751 mL
                                                                  4,079 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: chornically ill
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   254 K/uL
   86 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.1 mEq/L
   21 mg/dL
   116 mEq/L
   142 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
   WBC
   8.5
   Hct
   27.3
   Plt
   254
   Cr
   0.3
   Glucose
   86
   Other labs: PT / PTT / INR:29.9/32.6/3.1, ALT / AST:[**10-1**], Alk Phos / T
   Bili:88/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:1.9 g/dL, LDH:258 IU/L, Ca++:5.6 mg/dL, Mg++:1.2
   mg/dL, PO4:2.8 mg/dL
   Microbiology: Blood NGTD
   Urine
   Assessment and Plan
   54 yr old woman with met breast CA (recent crani) at rehab who was
   found hypotensive and minimally responsive this AM
   1. Hypotension: DDX early sepsis with sources being urine and bowel
   compunded by dehdration over past few days due to
   diarrhea.
                           : Relatively immunocompromised with recent
   hospital stay- potential sources in order, urine, stools, portacath
                           : currently BPs have started to stabalize, goal
   MAP greater than 65 UOPgreater than 30 cc/hr
                           : pan culture, cover with Vanco Cefipime Flagyl
   Now that she has been given 7L and still BP trend off thinking about
   aderanl insufficiency
 check [**Last Name (un) 45**] stim.
   Check mixed Scvo2 off port, check Echo (hx of cardiomyopathy after
   herceptin)
   2. Altered Mental status: suspect hypotension and med effect but if
   spikes, consider LP
   3. NonGap acidosis with chloride resusiation: switched to LR, trend,
   4. FEN: replete Ca and Mg
   5. RA: hold plaquenil and celebrex, pain meds prn
   6. Anti Coag: hold coumadin as out of range, trend
   7. Breast Ca: contact Oncologist at [**Hospital3 629**],
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  with pt and husband
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40, remians hypotensive and critically ill

2189-04-24 06:17:00 Physician Resident Progress Note
Chief Complaint: Hypotension, lethargy, UTI
   24 Hour Events:
   -BP held steady overnight
   -[**Last Name (un) **] stim test was normal: 2-->12.5-->24.1
   -Echocardiogram wnl, EF was 60-70%, suggesting she is hyperdynamic, c/w
   sepsis
   -Mixed venous O2 sat 85
   -C. diff negative
   -Asking for a sleeping aid, I avoided this as she had been hypotensive
   at night and given MS [**First Name (Titles) 292**]
[**Last Name (Titles) 1037**]ies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2189-4-23**] 02:30 PM
   Cefipime - [**2189-4-24**] 04:00 AM
   Metronidazole - [**2189-4-24**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Ipratropium nebs
   Keppra [**Telephone/Fax (3) 2586**]
   Fexofenadine 180
   Ecitalopram 20
   Phenobarbital 90
   PPI
   ASA
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Diarrhea
   Genitourinary: No(t) Dysuria
   Neurologic: Headache
   Flowsheet Data as of  [**2189-4-24**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 100 (93 - 113) bpm
   BP: 103/60(72) {76/48(55) - 134/88(99)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  6,265 mL
                                                                    310 mL
   PO:
                                                                    770 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  5,090 mL
                                                                    260 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    825 mL
                                                                    210 mL
   Urine:
                                                                    825 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,440 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   281 K/uL
   11.7 g/dL
   90 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.0 mEq/L
   20 mg/dL
   114 mEq/L
   138 mEq/L
   33.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
   WBC
   8.5
   7.7
   Hct
   27.3
   33.9
   Plt
   254
   281
   Cr
   0.3
   0.4
   0.4
   Glucose
   86
   187
   160
   90
   Other labs: PT / PTT / INR:21.5/24.8/2.0, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:6.9 mg/dL, Mg++:2.1
   mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Mixed venous O2 sat 85
   [**Last Name (un) **] stim test: 2-12.5-24.1
   Imaging: Echo: wnl, EF 60-70%
   Microbiology: Blood, urine, and stool cultures from [**4-22**] with NGTD
   C diff negative
   Assessment and Plan
   54 yof w/ h/o breast cancer a/w lethargy and hypotention.
   .
   # Hypotension: This occured in the setting of several days of diarrhea,
   and a UTI, so our differential includes hypovolemia and urosepsis.  Her
   [**Last Name (un) 45**]-stim test was wnl, making adrenal insufficiency unlikely.  She is
   responsive to IVF boluses, and has maintained her goal MAP of >65 and
   goal UOP of >30cc/hr over the last 24 hours.
   - currently on vanc/cefepime/flagyl for fevers in the setting of
   relative neutropenia.  [**Name2 (NI) **] likely switch abx to ciprofloxacin for UTI
   as we have a clear source
   - Follow up pan culture
   - Transfuse with PRBC
s for hypotension as may hold volume more
   effectively given low albumin.
   .
   #Lethargy: Likely multifactorial [**1-17**] meds, hypotension, infection.
   Mental status improving with hydration.
   - Avoid sedating meds.
   - Much improved this AM.
   .
   #Acid Base: Hyperchloremic non-anion gap metabolic acidosis likely [**1-17**]
   IV fluids, for which we changed to LR.
   -Transfuse PRBC
s today PRN.
   .
   #Breast Cancer: [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 2562**] (sp?) is primary oncologist.  Further care
   as per Oncology.
   - Continue phenobarb and keppra for seizures.
   .
   #RA:
   - Can likely restart plaquenil and celebrex as she has been stable for
   24hrs.
   .
   #Coumadin for prior CVA: Held in acute illness
   - Can likely restart coumadin today
   - Continue ASA 81mg.
   .
   #Diarrhea: C. diff negative x1
   -Can likely stop flagyl coverage
   - Hold bowel regimen
   - IV fluids.
   #FEN: Regular diet, nutrition consult given low albumin, replete
   Calcium, Magnesium, Phos
   #Access: PIV, Port
   #FULL CODE
   ICU Care
   Nutrition:
   Comments: Regular diet, nutrition consult for low albumin
   Glycemic Control:  Comments: Not needed
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   We will take off all abx except for cefepime for one more day to
   complete a course for a UTI
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2435**], MD
   on:[**2189-4-24**] 09:47 ------
   CXR c/w evolving RUL PNA, given patient
s status as a chronically
   hospitalized patient, we will start vanc/cefepime for this.  We will
   also change to metoprolol tartrate for rate control titration and d/c
   carvedilol.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2435**], MD
   on:[**2189-4-24**] 09:48 ------

2189-04-24 09:10:00 Physician Attending Progress Note
Chief Complaint: hypotension altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2189-4-23**] 06:35 PM
   Echo :
   BPs stayed  with MAPs greater than 65
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2189-4-24**] 04:00 AM
   Metronidazole - [**2189-4-24**] 04:30 AM
   Vancomycin - [**2189-4-24**] 08:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-24**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 99 (93 - 113) bpm
   BP: 95/72(78) {95/60(70) - 134/88(99)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  6,265 mL
                                                                    541 mL
   PO:
                                                                    770 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  5,090 mL
                                                                    491 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    825 mL
                                                                    360 mL
   Urine:
                                                                    825 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,440 mL
                                                                    181 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   281 K/uL
   90 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.0 mEq/L
   20 mg/dL
   114 mEq/L
   138 mEq/L
   33.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
   WBC
   8.5
   7.7
   Hct
   27.3
   33.9
   Plt
   254
   281
   Cr
   0.3
   0.4
   0.4
   Glucose
   86
   187
   160
   90
   Other labs: PT / PTT / INR:21.5/24.8/2.0, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:6.9 mg/dL, Mg++:2.1
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   54 yr old woman with met breast CA (recent crani) at rehab who was
   found hypotensive and minimally responsive this AM
   1. Hypotension: resolved, initial DDX early sepsis with sources being
   urine and bowel compounded by dehydration over past few days due to
   diarrhea.
                           : Relatively immunocompromised with recent
   hospital stay- potential sources were in order, urine, stools,
   portacath
                           : C diff negative
                           : only source seems likely is UTI- d/c vanco,
   flagyl, keep cefipime while awaiting final urine cx as hx of Proteus
   2. Altered Mental status:improved with time/MAPS
   3. NonGap acidosis with chloride resusiation: switched to LR, trend,
   4. FEN: replete Ca and Mg
   5. RA: can restart plaquenil and celebrex, pain meds prn
   6. Anti Coag: restart coumadin at home dose
   7. Breast Ca: contact Oncologist at [**Hospital3 629**],
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: call out to 7S

2189-04-25 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2189-4-24**] 01:33 PM
 CALLED OUT
   Tachycardic, overloaded, 20 IV lasix with decreased in HR from 140 to
   110s
   upper ext u/s  negatve
   C.diff + - started on PO flagyl
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2189-4-24**] 04:30 AM
   Vancomycin - [**2189-4-24**] 08:03 AM
   Cefipime - [**2189-4-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-4-25**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 105 (94 - 127) bpm
   BP: 93/64(73) {93/62(72) - 132/96(104)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,380 mL
                                                                    166 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    840 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                    720 mL
   Urine:
                                                                  4,380 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,000 mL
                                                                   -554 mL
   Respiratory support
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, mildly tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, softly
   distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   292 K/uL
   11.6 g/dL
   81 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   114 mEq/L
   143 mEq/L
   34.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
                             [**2189-4-25**]  04:55 AM
   WBC
   8.5
   7.7
   6.5
   Hct
   27.3
   33.9
   34.1
   Plt
   [**Telephone/Fax (3) 2617**]
   Cr
   0.3
   0.4
   0.4
   0.3
   Glucose
   86
   187
   160
   90
   81
   Other labs: PT / PTT / INR:17.8/22.1/1.6, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:7.1 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Culture Data:
   C. Diff positive Stool:
   Radiology;
   USD: IMPRESSION: No evidence of DVT in the right arm.
   CXR:
   IMPRESSION:
   1. Worsening right lower lobe atelectasis and effusion.
   2. Multiple metastatic lesions involving bones.
   Assessment and Plan
   54 yof w/ h/o breast cancer a/w lethargy and hypotention.
    .
   # Hypotension: This occured in the setting of several days of diarrhea,
   and a UTI, so our differential includes hypovolemia and urosepsis.  Her
   [**Last Name (un) 45**]-stim test was wnl, making adrenal insufficiency unlikely.  She is
   responsive to IVF boluses, and has maintained her goal MAP of >65 and
   goal UOP of >30cc/hr over the last 24 hours.  No autodiuresing.  Would
   allow as tolerated by BP.
   - currently flagyl for C. Diff.  Plan to complete 14 day course from
   - Cultures NGTD
   - Transfuse with PRBC
s for hypotension as may hold volume more
   effectively given low albumin.
   .
   #Lethargy: Likely multifactorial [**1-17**] meds, hypotension, infection.
   Mental status improving with hydration.
   - Avoid sedating meds.
   - Much improved this AM and back to apparent baseline.
   .
   #Acid Base: Hyperchloremic non-anion gap metabolic acidosis likely [**1-17**]
   IV fluids, for which we changed to LR.
   -Transfuse PRBC
s today PRN.
   .
   #Breast Cancer: [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 2562**] (sp?) is primary oncologist.  Further care
   as per Oncology.
   - Continue phenobarb and keppra for seizures.
   .
   #RA:
   - Restarted plaquenil and celebrex as she has been stable for 24hrs.
   .
   #Coumadin for prior CVA: Held in acute illness
   - Restarted coumadin yesterday
   - Continue ASA 81mg
 not on as outpatient so can d/c once INR
   therapeutic.
   .
   #Diarrhea: C. diff positive.  Treat for 14 day course.
   - Hold bowel regimen
   - IV fluids.
   .
   #FEN: Regular diet, nutrition consult given low albumin, replete
   Calcium, Magnesium, Phos
   .
   #Access: PIV, Port
   .
   #FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: heparin SQ while INR < 2.0
   Stress ulcer: protonix
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-04-25 10:21:00 Physician Attending Progress Note
Chief Complaint: Hypotension, lethargy
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   54 yo F w/RA (on plaquenil and celebrex) and breast ca metastatic to
   brain (s/p recent craniotomy) and bone admitted from rehab after found
   to be hypotensive and lethargic.  BP fluid responsive; never required
   pressors.  Suspect hypotension [**1-17**] infection + hypovolemia in setting
   of several days of diarrhea.  ([**Last Name (un) **] stim appropriate (had been on
   intermittent steroids w/chemo), CvO2 85, TTE hyperdynamic).  Dirty U/A
   (cx pending, has had proteus in past) and c diff positive- on cefepime
   and flagyl.  Lethargy likely [**1-17**] HOTN + med effect, now improved.
   Non-gap metabolic acidosis post NS resuscitation; LR if need to bolus.
   Persistent ST on unclear [**Name2 (NI) **]- making excellent urine, so don't think
   dry.  Coumadin (restarted [**4-24**]) for PFO and prior CVA.
   24 Hour Events:
 ULTRASOUND - At [**2189-4-24**] 01:33 PM
 CALLED OUT
   RUE U/S neg for DVT
   ST, thought to be volume overloaded, HR improved from 140s-->110s after
   20mg IV lasix
   Started on flagyl for c diff
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2189-4-24**] 04:30 AM
   Vancomycin - [**2189-4-24**] 08:03 AM
   Cefipime - [**2189-4-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   keppra
   phenobarbital
   asa
   coumadin
   plaquenil
   celebrex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-25**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 104 (94 - 127) bpm
   BP: 118/87(95) {93/62(72) - 132/96(104)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,380 mL
                                                                    435 mL
   PO:
                                                                    540 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                  1,080 mL
   Urine:
                                                                  4,380 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,000 mL
                                                                   -645 mL
   Respiratory support
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: crackles anteriorly on R, diminished BS at bases
   posteriorly b/l
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, multiple ecchymoses
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   292 K/uL
   81 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   114 mEq/L
   143 mEq/L
   34.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
                             [**2189-4-25**]  04:55 AM
   WBC
   8.5
   7.7
   6.5
   Hct
   27.3
   33.9
   34.1
   Plt
   [**Telephone/Fax (3) 2617**]
   Cr
   0.3
   0.4
   0.4
   0.3
   Glucose
   86
   187
   160
   90
   81
   Other labs: PT / PTT / INR:17.8/22.1/1.6, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:7.1 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Imaging: Portable CXR - not sig changed c/w [**4-24**]
   Microbiology: c diff +
   Assessment and Plan
   54 yr old woman with met breast CA (recent crani) a/w hypotension and
   lethargy.  Found to have c diff.
   1. Hypotension: likely [**1-17**] infection + hypovolemia in setting of
   diarrhea.  HD now improved.  d/c cefepime as urine cx negative.  Cont
   po flagyl for c diff for 14d course.
    initial DDX early sepsis with sources being urine and bowel compounded
   by dehydration over past few days due to diarrhea.
                           : Relatively immunocompromised with recent
   hospital stay- potential sources were in order, urine, stools,
   portacath, C diff negative
   2. Lethargy/altered mental status: improved with time/MAPS
   3. NonGap metabolic acidosis: [**1-17**] chloride resusciation: switched to LR
   prn fluids and will trend
   4. FEN: replete Ca and Mg
   5. RA: on plaquenil and celebrex, pain meds prn
   6. Anti Coag: for PFO and prior CVA, restarted coumadin at home dose
   7. Breast Ca: primary oncologist at [**Hospital3 629**].  Phenobarb and Keppra
   for sz ppx in setting of brain mets.
   RUE swelling, UENI negative for clot, ?related to BP cuff.  Monitor, sl
   improved today.
   FEN: regular diet, nutrition consult
   Access: port-a-cath, no PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2189-04-26 07:40:00 Physician Resident Progress Note
Chief Complaint: C. diff, hypotension
   24 Hour Events:
   - Called out
   - Persistent diarrhea during the day
   - Given 500cc bolus for tachycardia as net out 1.5L with 6 bm's in
   addition
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2189-4-24**] 04:30 AM
   Vancomycin - [**2189-4-24**] 08:03 AM
   Cefipime - [**2189-4-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Flowsheet Data as of  [**2189-4-26**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 106 (104 - 120) bpm
   BP: 96/69(76) {91/65(72) - 124/89(96)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,340 mL
                                                                     76 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,060 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,050 mL
   Urine:
                                                                  2,900 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,560 mL
                                                                   -974 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   303 K/uL
   12.0 g/dL
   87 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   7 mg/dL
   112 mEq/L
   141 mEq/L
   36.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
                             [**2189-4-25**]  04:55 AM
                             [**2189-4-25**]  05:52 PM
                             [**2189-4-26**]  05:29 AM
   WBC
   8.5
   7.7
   6.5
   6.2
   Hct
   27.3
   33.9
   34.1
   36.0
   Plt
   [**Telephone/Fax (3) 2641**]03
   Cr
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   Glucose
   86
   187
   160
   90
   81
   85
   87
   Other labs: PT / PTT / INR:18.6/24.1/1.7, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Microbiology: C. diff positive
   Blood cultures 5/8 NGTD
   Assessment and Plan
   Assessment and Plan
   54 yof w/ h/o breast cancer a/w lethargy and hypotention.
    .
   # Hypotension: This occured in the setting of several days of diarrhea,
   and a UTI, so our differential includes hypovolemia and urosepsis.  Her
   [**Last Name (un) 45**]-stim test was wnl, making adrenal insufficiency unlikely.  She is
   responsive to IVF boluses, and has maintained her goal MAP of >65 and
   goal UOP of >30cc/hr over the last 24 hours.  No autodiuresing.  Would
   allow as tolerated by BP.
   - currently flagyl for C. Diff.  Plan to complete 14 day course from
   - Cultures NGTD
   - Transfuse with PRBC
s for hypotension as may hold volume more
   effectively given low albumin.
   .
   #Lethargy: Likely multifactorial [**1-17**] meds, hypotension, infection.
   Mental status improving with hydration.
   - Avoid sedating meds.
   - Much improved this AM and back to apparent baseline.
   .
   #Acid Base: Hyperchloremic non-anion gap metabolic acidosis likely [**1-17**]
   IV fluids, for which we changed to LR.
   -Transfuse PRBC
s today PRN.
   .
   #Breast Cancer: [**First Name8 (NamePattern2) 838**] [**Last Name (NamePattern1) 2562**] (sp?) is primary oncologist.  Further care
   as per Oncology.
   - Continue phenobarb and keppra for seizures.
   .
   #RA:
   - Restarted plaquenil and celebrex as she has been stable for 24hrs.
   .
   #Coumadin for prior CVA: Held in acute illness
   - Restarted coumadin yesterday
   - Continue ASA 81mg
 not on as outpatient so can d/c once INR
   therapeutic.
   .
   #Diarrhea: C. diff positive.  Treat for 14 day course.
   - Hold bowel regimen
   - IV fluids.
   .
   #FEN: Regular diet, nutrition consult given low albumin, replete
   Calcium, Magnesium, Phos
   .
   #Access: PIV, Port
   .
   #FULL CODE
   ICU Care
   Nutrition:
   Comments: Regular diet as tolerated
   Glycemic Control:  Comments: Not  needed
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2189-04-26 07:58:00 Physician Attending Progress Note
Chief Complaint: hypotension, lethargy, c diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2189-4-24**] 04:30 AM
   Vancomycin - [**2189-4-24**] 08:03 AM
   Cefipime - [**2189-4-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-26**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 106 (104 - 120) bpm
   BP: 96/69(76) {91/65(72) - 124/89(96)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,340 mL
                                                                     80 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,060 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,050 mL
   Urine:
                                                                  2,900 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,560 mL
                                                                   -971 mL
   Respiratory support
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   303 K/uL
   87 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   7 mg/dL
   112 mEq/L
   141 mEq/L
   36.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2189-4-23**]  04:04 AM
                             [**2189-4-23**]  03:41 PM
                             [**2189-4-24**]  12:00 AM
                             [**2189-4-24**]  04:20 AM
                             [**2189-4-25**]  04:55 AM
                             [**2189-4-25**]  05:52 PM
                             [**2189-4-26**]  05:29 AM
   WBC
   8.5
   7.7
   6.5
   6.2
   Hct
   27.3
   33.9
   34.1
   36.0
   Plt
   [**Telephone/Fax (3) 2641**]03
   Cr
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   Glucose
   86
   187
   160
   90
   81
   85
   87
   Other labs: PT / PTT / INR:18.6/24.1/1.7, ALT / AST:[**11-7**], Alk Phos / T
   Bili:91/0.2, Differential-Neuts:80.1 %, Lymph:10.9 %, Mono:6.1 %,
   Eos:2.7 %, Albumin:2.2 g/dL, LDH:319 IU/L, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   54 yo F w/RA (on plaquenil and celebrex) and breast ca metastatic to
   brain (s/p recent craniotomy) and bone admitted from rehab after found
   to be hypotensive and lethargic.  BP fluid responsive; never required
   pressors.  Suspect hypotension [**1-17**] infection + hypovolemia in setting
   of several days of diarrhea.  Found to have c diff.
   1. Hypotension: HD now improved.  HOTN was likely [**1-17**] infection +
   hypovolemia in setting of diarrhea.  [**Last Name (un) **] stim appropriate (had been on
   intermittent steroids w/chemo) and TTE wnl.  Will d/c cefepime as urine
   cx negative.  Cont po flagyl for c diff for 14d course.
   2. Lethargy/altered mental status: likely [**1-17**] HOTN and med effect.  Has
   improved with time and improvement in BP.
   3. NonGap metabolic acidosis: [**1-17**] chloride resusciation, improving.
   4. RA: on plaquenil and celebrex, pain meds prn
   5. Anti Coag: for PFO and prior CVA, restarted coumadin at home dose
   [**4-24**].
   6. Breast Ca: primary oncologist at [**Hospital3 629**].  Phenobarb and Keppra
   for sz ppx in setting of brain mets.
   7. RUE swelling: UENI negative for clot, ?related to BP cuff.  Monitor,
   slightly improved today per team.
   8. FEN: regular diet, nutrition consult for supplements
   9. Access: port-a-cath, no PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2189-4-22**] 04:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: